* source OPA_DESIGN
R_R1         N00270 0  15k TC=0,0 
V_V1         3V3 0 3.3VDC
R_R2         N00270 3V3  15k TC=0,0 
R_R3         N00951 N01083  75k TC=0,0 
R_R4         N00951 0  3.3k TC=0,0 
R_R5         N00955 N01079  75k TC=0,0 
R_R6         N01022 N00955  3.3k TC=0,0 
V_V2         N01083 N01079 60VDC
E_U3         1V65 0 VALUE {LIMIT(V(N00270,1V65)*1E6,0V,5V)}
E_U4         N01022 0 VALUE {LIMIT(V(N00951,N00955)*1E6,0V,5V)}
